US05338735
1. 2-Bromoethyl-3-methoxy benzothiophene-2-carboxamide
Similarly prepared using 3-bromopropylamine hydrobromide was 3-bromopropyl-3-methoxy benzothiophene-2-carboxamide.

reactant | 3-bromopropylamine hydrobromide | Br.BrCCCN
reactant | 3-bromopropyl-3-methoxy benzothiophene-2-carboxamide | BrCCCC1=CC=CC2=C1C(=C(S2)C(=O)N)OC | C13H14BrNO2S
product | 2-Bromoethyl-3-methoxy benzothiophene-2-carboxamide | BrCCC1=CC=CC2=C1C(=C(S2)C(=O)N)OC | C12H12BrNO2S
